### PR TITLE
[Merged by Bors] - chore(SetTheory/Ordinal): deprecate more theorems on `succ`

### PR DESCRIPTION
**Pull request by vihdzp**
The idea is that we should simply write `x + 1` instead of `succ x`.

---

- [x] depends on: #35844

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Exponential.lean [hunk 1]
```diff
@@ -196,7 +196,7 @@ theorem opow_add (a b c : Ordinal) : a ^ (b + c) = a ^ b * a ^ c := by
   obtain rfl | ha' := (one_le_iff_ne_zero.2 ha.ne').eq_or_lt; · simp
   induction c using limitRecOn with
```
Comment (b-mehta) [inline Mathlib/SetTheory/Ordinal/Exponential.lean:197]: I assume you'd like to change `limitRecOn` to have the `succ` case written as `_ + 1` soon too?

**Review by b-mehta — APPROVED** [review]

**Comment by b-mehta** [comment]
Thanks!

bors merge
